US07173004B2
Preparation of Compound 16, [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid isopropyl ester
Prepared from cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl)-amide bis hydrochloride (50 mg, 0.075 mmol), 44 mL (0.25 mmol) of DIPEA and 0.10 mL (0.1 mmol) of 1 M isopropyl chloroformate in toluene (Aldrich) as described in the procedure above to give 40 mg (78%) of a white solid. Preparative HPLC condition: YMC XTERRA, S5, 30×50 mm, gradient: 50% B to 100% B. 15 min. hold 2 min. flow rate 40 mL/min) NMR (300 MHz, CD3OD) δ. LC-MS (Method A, retention time: 3.32 min), MS m/z 682 (M++1).

reactant | cyclopropanesulfonic acid [14-amino-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-ene-4-carbonyl)-amide bis hydrochloride | 0.075 mmol, 50 mg | Cl.Cl.NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1
reactant | DIPEA | 0.25 mmol, 44 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropyl chloroformate | 0.1 mmol, 1 M, 0.10 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [4-Cyclopropanesulfonylaminocarbonyl-18-(isoquinolin-1-yloxy)-2,15-dioxo-3,16-diaza-tricyclo[14.3.0.04,6]nonadec-7-en-14-yl]-carbamic acid isopropyl ester | 40 mg, 78% | C(C)(C)OC(NC1CCCCCC=CC2CC2(NC(C2CC(CN2C1=O)OC1=NC=CC2=CC=CC=C12)=O)C(=O)NS(=O)(=O)C1CC1)=O | C34H43N5O8S
